US05783593
N-Propyl-N-(3-phenoxybenzyl)amine
3-Phenoxybenzaldehyde (2.00 mL, 2.29 g, 11.6 mmol), n-propylamine (0.95 mL, 0.68g, 11.5mmol), and p-toluenesulfonic acid monohydrate (15 mg, 0.08 mmol) were dissolved in absolute ethanol (15 mL), then heated to 80° C. in a sealed tube for 2.5 hours. The reaction was cooled to room temperature, transferred to a round-bottom flask, then sodium borohydride (440 mg, 11.6 mmol) was added, followed by heating under reflux for 2.5 hours. The reaction was concentrated, the residue was partitioned between water and EtOAc, and the EtOAc layer was washed with water and brine. After drying with Na2SO4, filtration, and concentration, the residue was purified by chromatography on silica gel using 4:6 followed by 3:7 hexane-EtOAc to give 1.59 g (57%) light yellow oil. 1H NMR (CDCl3) δ7.30 (m, 3H), 7.08 (m, 2H), 7.00 (m, 3H), 6.88 (dd, 1H), 3.77 (s, 2H), 2.60 (t, 2H), 1.53 (m, 2H), 0.92 (t, 3H). MS (DCl/NH3) m/e 242 (M+H)+.

reactant | 3-Phenoxybenzaldehyde | 11.6 mmol, 2.00 mL, 2.29 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | n-propylamine | 11.5mmol, 0.95 mL, 0.68g | C(CC)N | C3H9N
reactant | p-toluenesulfonic acid monohydrate | 0.08 mmol, 15 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium borohydride | 11.6 mmol, 440 mg | [BH4-].[Na+]
reactant | NH3 | N | H3N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-Propyl-N-(3-phenoxybenzyl)amine | C(CC)NCC1=CC(=CC=C1)OC1=CC=CC=C1 | C16H19NO
